2102-10-18 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Encephalopathy
   24 Hour Events:
 PICC LINE - STOP [**2102-10-17**] 06:50 PM
   - 430p labs showing 10pt drop in Na. D5W already finished by this
   point, didn't give more. At baseline poor mental status
   - PICC pulled
   - BP's low through the evening to the 80's, but not tachycardic.
   Watched. Early in am, bp's down to 70's so bolus 500 cc's NS (instead
   of D5W due to Na drop) and started empiric Vanc/Zosyn/Cipro. If
   continued through tomorrow, will need ID approval
   - Hypotension again in AM after receiving morning meds.  Stabilized on
   his own.  Reduced metoprolol to 25mg TID.
   - PM CXR IMPRESSION: Bilateral basal infiltrates, more on the left than
   right, can explain patient's increasing fevers. Observe, however that
   these abnormalities existed already on several previous portable chest
   examinations.
   Allergies:
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2102-10-18**] 02:36 AM
   Piperacillin/Tazobactam (Zosyn) - [**2102-10-18**] 03:00 AM
   Ciprofloxacin - [**2102-10-18**] 04:00 AM
   Ceftriaxone - [**2102-10-18**] 06:20 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2102-10-17**] 11:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-10-18**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.3
C (97.3
   HR: 88 (60 - 99) bpm
   BP: 125/85(95) {73/26(49) - 134/97(102)} mmHg
   RR: 16 (7 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.9 kg (admission): 83.1 kg
   Height: 70 Inch
             Total In:
                                                                  4,866 mL
                                                                  1,485 mL
   PO:
             TF:
                                                                  1,326 mL
                                                                    399 mL
   IVF:
                                                                  2,170 mL
                                                                    586 mL
   Blood products:
   Total out:
                                                                  1,076 mL
                                                                    340 mL
   Urine:
                                                                  1,076 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,790 mL
                                                                  1,145 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 6,000 (530 - 6,000) mL
   PS : 5 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 0 cmH2O
   SpO2: 96%
   ABG: ///35/
   Ve: 8.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   387 K/uL
   9.9 g/dL
   131 mg/dL
   0.5 mg/dL
   35 mEq/L
   3.9 mEq/L
   17 mg/dL
   109 mEq/L
   147 mEq/L
   31.7 %
   12.2 K/uL
        [image002.jpg]
                             [**2102-10-12**]  07:16 AM
                             [**2102-10-12**]  03:30 PM
                             [**2102-10-13**]  02:26 AM
                             [**2102-10-14**]  01:54 AM
                             [**2102-10-15**]  02:11 AM
                             [**2102-10-15**]  07:27 AM
                             [**2102-10-16**]  02:49 AM
                            [**2102-10-17**]  02:31 AM
                            [**2102-10-17**]  04:37 PM
                            [**2102-10-18**]  04:49 AM
   WBC
   9.4
   12.1
   14.2
   17.5
   12.2
   Hct
   35.3
   35.1
   34.0
   36.1
   31.7
   Plt
   391
   419
   393
   448
   387
   Cr
   0.5
   0.4
   0.6
   0.7
   0.6
   0.5
   0.5
   0.5
   TropT
   <0.01
   TCO2
   36
   Glucose
   125
   135
   127
   161
   142
   121
   196
   131
   Other labs: PT / PTT / INR:13.0/26.4/1.1, CK / CKMB /
   Troponin-T:30//<0.01, ALT / AST:59/41, Alk Phos / T Bili:100/0.4,
   Amylase / Lipase:74/21, Differential-Neuts:76.9 %, Band:0.0 %,
   Lymph:12.7 %, Mono:8.5 %, Eos:1.7 %, Lactic Acid:0.7 mmol/L, LDH:172
   IU/L, Ca++:8.1 mg/dL, Mg++:2.4 mg/dL, PO4:3.6 mg/dL
   Fluid analysis / Other labs: [**10-17**] UA: negative
   [**9-27**] and [**10-4**] lyme CSF: equivocal
   Imaging: [**10-17**] CXR: Bilateral basal infiltrates, more on the left than
   right, can explain patient's increasing fevers. Observe, however that
   these abnormalities existed already on several previous portable chest
   examinations.
   Microbiology: [**10-17**] catheter tip: pending
   [**10-17**] urine cx: pending
   [**10-17**] sputum cx: pending, nothing on stain.
   [**10-16**] blood cx: pending
   [**10-15**] mini BAL: yeast and commensal org.
   [**10-14**] flu: negative
   Assessment and Plan
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 ALTERATION IN ELIMINATION RELATED TO CONSTIPATION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 LYME DISEASE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS Bells Palsy
   63M with HTN, ITP, admitted with neurologic changes and found to have
   lyme encephalitis.  Now transferred with continued altered mental
   status and fever.
   .
   # Hypotension: had period of hypotension overnight with SBPs to 70s.
   Responded to IV fluids and started on vanc, zosyn and cipro for a
   presumed hospital acquired pneumonia (had had CXR that should possible
   new RLL infiltrates).  The hypotension also happened soon after
   receiving several medications, and was repeated this morning after
   receiving metoprolol, clonidine, methadone and seroquel.
   - Final read for CXR infiltrates is equivocal and patient was
   afebrile.  It is unclear whether he has a new infection.  Also,
   considering that he was already on ceftriaxone, not sure if adding
   zosyn is useful.  We can continue antibiotics for 48 hours after all
   cultures negative.
   - He had had a cards consult for tachycardia, which they felt was an
   accelerated idioventricular rhythm that would not likely respond to
   metoprolol, but his metoprolol was still increased to 75mg TID.  We
   will reduce his dose to 25mg TID to avoid hypotension.
   .
   # Lyme encephalitis.  Highly suspected based on MR findings, serum and
   CSF serologies.  On stable treatment course for planned 4 weeks with
   ceftriaxone.  With some persistent neurologic deficits.
   - Though second CSF serology is equivocal, they definitely feel that
   his picture is
   - 28 day course of ceftriaxone
 now day 22 of 28.
   - Neurology following; unclear if deficits permanent.
   .
   # Agitation/altered mental status. Primarily due to encephalitis,
   though could be multifactorial - electrolyte abnormalities, other
   concurrent infection, med related.  Also with some chronic narcotic
   use.  He responds well to PRN haldol, but we will try to avoid chemical
   sedation and restraints with frequent re-orientation.
   - Methadone 10 mg TID given chronic pain control issues.
   - Seroquel 25 mg [**Hospital1 **] for agitation.
   - Can also give Haldol 2mg prn agitation.
   - Given that nutritional deficits appear very unlikely, we will d/c IV
   thiamine, folate and multivitamin.
   .
   # Respiratory failure.  Now doing well at 20 hours on trach mask. Seems
   to desat with plugging/secretions at times.  Atelectasis on imaging.
   - f/u CXR read.
   - Continue vent wean as tolerated.
   - Continue inhaled meds as prior for bronchospasm (no clear history of
   COPD, though with significant smoking history).
   .
   # Fever.  Daily low grade temps [**Date range (1) 9233**] (100-100.3); Tmax 102.8
   yesterday.  Blood cultures drawn; urine with a few WBCs.  CXR without
   evidence of infiltrate though was one day prior.
   - Repeat CXR.
   - Sputum culture.
   - Repeat UA with culture.
   - Send C.diff.
   - d/c PICC and send tip culture.
   .
   # Hypernatremia.  Improved yesterday.  Will continue to monitor with
   free water boluses w/ tube feeds.
   - Free water in tube feeds doubled yesterday.
   - repeat lytes in PM.
   .
   # Corneal ulcer.  s/p eyelid suturing with ophthal.  Likely related to
   inability to protect eye with neurologic deficits.
   - vigamox and bacitracin ointment.
   - f/u ophthalmology recs..
   .
   # Elevated LFTs.  Mild yesterday, slightly worsened today.  Unclear
   etiology, possibly due to ceftriaxone.
   - Continue to trend.  If he has fevers again, would get ultrasound.
   .
   # Accelerated idioventricular rhythm.  Cards saw; thought benign and
   not related to lyme disease.
   - Continue metoprolol at current dosing.
   .
   FEN: correct/replete electrolytes, tube feeds
   Prophylaxis: Subutaneous heparin, H2B
   Access: Peripherals.
   Code:  Full Code
   Communication: Patient & Son, [**Name (NI) 152**] [**Name (NI) **] [**Telephone/Fax (1) 9234**]
   Disposition: pending clinical improvement; eventuall for rehab
   screening.
   ICU Care
   Nutrition:
   Replete (Full) - [**2102-10-18**] 04:54 AM 55 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2102-10-18**] 03:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-10-19 08:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2102-10-18**] 06:30 PM
   - Was on vanc/zosyn/cipro/ceftriaxone and antibiotics chief (Dr. [**First Name (STitle) **]
   thought that coverage with ceftriaxone and zosyn not necessary unless
   there is very high suspicion for pseudomonas.
   - Zosyn d/c'ed.
   - was agitated several times.  Got 2mg haldol shortly before 4pm.
   Shortly afterwards he desaturated to the 70s, was bag masked for
   several minutes and a mucus plug was aspirated with improvement in his
   sats.  He then stabilized and was bronched.
   - Started on cefepime because of instability, to cover for
   pseudomonas.  Need to contact ID to ask whether ceftriaxone can be
   stopped while cefepime is being given (equivalent Lyme coverage?).
   - Agitated again at midnight, given further 2mg of haldol.
   Allergies:
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2102-10-18**] 03:00 AM
   Vancomycin - [**2102-10-18**] 08:51 PM
   Ciprofloxacin - [**2102-10-19**] 04:00 AM
   Ceftriaxone - [**2102-10-19**] 05:48 AM
   Cefipime - [**2102-10-19**] 06:49 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-10-18**] 11:54 PM
   Haloperidol (Haldol) - [**2102-10-19**] 06:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-10-19**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.2
   HR: 91 (63 - 109) bpm
   BP: 139/58(78) {70/40(51) - 144/93(116)} mmHg
   RR: 10 (8 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.6 kg (admission): 83.1 kg
   Height: 70 Inch
             Total In:
                                                                  4,147 mL
                                                                    838 mL
   PO:
             TF:
                                                                  1,437 mL
                                                                    538 mL
   IVF:
                                                                  1,620 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  1,315 mL
                                                                    375 mL
   Urine:
                                                                  1,315 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,832 mL
                                                                    463 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 562 (562 - 562) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 27
   PIP: 16 cmH2O
   Plateau: 15 cmH2O
   Compliance: 64.3 cmH2O/mL
   SpO2: 99%
   ABG: ///35/
   Ve: 5.9 L/min
   Physical Examination
   Awake, alert, tries to answer questions but can
t talk bc of trach,
   follows commands. Tremor in his L hand. Coarse rhonchi bilaterally. CV
   and abdomen benign. No BLE edema.
   Labs / Radiology
   328 K/uL
   9.9 g/dL
   113 mg/dL
   0.5 mg/dL
   35 mEq/L
   4.2 mEq/L
   15 mg/dL
   103 mEq/L
   140 mEq/L
   28.9 %
   8.1 K/uL
        [image002.jpg]
                             [**2102-10-14**]  01:54 AM
                             [**2102-10-15**]  02:11 AM
                             [**2102-10-15**]  07:27 AM
                             [**2102-10-16**]  02:49 AM
                            [**2102-10-17**]  02:31 AM
                            [**2102-10-17**]  04:37 PM
                            [**2102-10-18**]  04:49 AM
                            [**2102-10-18**]  02:25 PM
                            [**2102-10-18**]  11:00 PM
                            [**2102-10-19**]  02:32 AM
   WBC
   12.1
   14.2
   17.5
   12.2
   8.1  down this am
   Hct
   35.1
   34.0
   36.1
   31.7
   28.9
   Plt
   [**Telephone/Fax (3) 9272**]87
   328
   Cr
   0.6
   0.7
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   36
   Glucose
   127
   161
   142
   121
   196
   131
   98
   112
   113
   Other labs: PT / PTT / INR:13.0/26.4/1.1, CK / CKMB /
   Troponin-T:30//<0.01, ALT / AST:44/30   trending down , Alk Phos / T
   Bili:105/0.3  today , Amylase / Lipase:74/21, Differential-Neuts:76.9
   %, Band:0.0 %, Lymph:12.7 %, Mono:8.5 %, Eos:1.7 %, Lactic Acid:0.7
   mmol/L, Albumin:2.5 g/dL, LDH:172 IU/L, Ca++:8.2 mg/dL, Mg++:2.4 mg/dL,
   PO4:4.0 mg/dL
   Fluid analysis / Other labs: CRP [**10-16**] 133.6
   Imaging: [**10-18**] CXR without significant change
   [**10-17**] CXR IMPRESSION: Bilateral basal infiltrates, more on the left
   than right, can
   explain patient's increasing fevers. Observe, however that these
   abnormalities existed already on several previous portable chest
   examinations.
   Microbiology: [**10-18**] Resp viral Cx pending and screen pending
   [**10-18**] BAL all pending
   [**10-18**] Bronchial washings pending
   [**10-17**] Cath tip negative
   [**10-17**] UCx negative
   [**10-16**] Blood negative to date
   IgM positive Lyme
   Assessment and Plan
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 ALTERATION IN ELIMINATION RELATED TO CONSTIPATION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 LYME DISEASE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Bells Palsy
   63M with HTN, ITP, admitted with neurologic changes and found to have
   lyme encephalitis.  Now transferred with continued altered mental
   status and fever.
   # Hypotension: Has been having periods of hypotension with SBPs to
   70s.  Responded to IV fluids and started on vanc, zosyn and cipro for a
   presumed hospital acquired pneumonia (had had CXR that showed possible
   new RLL infiltrates).  The hypotension also happened soon after
   receiving several medications, and was repeated this morning after
   receiving metoprolol, clonidine, methadone and seroquel. Unclear that
   this hypotension represents a brewing sepsis. Afebrile since [**2102-9-16**]
   at 7am.
   - BP
s currently look good but if continued hypotension consider DC
   Clonidine or Metoprolol
   - He had had a cards consult for tachycardia, which they felt was an
   accelerated idioventricular rhythm that would not likely respond to
   metoprolol, but his metoprolol was still increased to 75mg TID, but
   then backed down to 25mg TID.
   # Lyme encephalitis.  Highly suspected based on MR findings, serum and
   CSF serologies.  On stable treatment course for planned 4 weeks with
   ceftriaxone.  With some persistent neurologic deficits.
   - F/u with ID about whether he should be on Ceftriaxone and Cefipime
   - Have spoke to pharmacy
 Cefipime not good Lyme coverage and
   Ceftriaxone not good Pseudomonas coverage.
   - 28 day course of ceftriaxone
 now day 24 of 28.
   - Neurology following; unclear if deficits permanent.
   # Agitation/altered mental status. Primarily due to encephalitis,
   though could be multifactorial - electrolyte abnormalities, other
   concurrent infection, med related.  Also with some chronic narcotic
   use.  He responds well to PRN haldol, but we will try to avoid chemical
   sedation and restraints with frequent re-orientation.
   - Pt has been on Methadone 10 mg TID for chronic pain control issues
   but will try to wean this off as not clear that pt is in pain and that
   he needs it. Will contact pharmacy about how to wean safely.
   - Seroquel 25 mg [**Hospital1 **] for agitation.
   - Can also give Haldol 2mg prn agitation.
   - Given that nutritional deficits appear very unlikely, IV thiamine,
   folate and multivitamin have been d/c'd.
   # Respiratory failure.  Now doing well on trach mask. Seems to desat
   with plugging/secretions at times.  Atelectasis on imaging.
   - f/u CXR read.
   - Continue vent wean as tolerated
   - will do trach mask trail today
   - Continue inhaled meds as prior for bronchospasm (no clear history of
   COPD, though with significant smoking history).
   # Fever.  Daily low grade temps [**Date range (1) 9233**] (100-100.3), but has been
   afebrile since [**2102-10-14**] at 7am. Was only on Ceftraxone, but several more
   [**Year (2 digits) **]
s were added on due to transient hypotense episodes. All recent
   cultures negative. CXR bilateral base opacification, atelectasis vs PNA
   but this has been present for several previous CXR
s and the pt is
   being covered with very broad spectrum [**Year (2 digits) **]. Recent PICC has been pulled
   and cath tip is negative. No clear infectious source other than the IgM
   Lyme for which he is almost done with 4wk course of Ceftriaxone.
   - Continue broad spectrums as above but will need to start thinking
   about peeling some back if there is no clear source. However, pt has
   been afebrile since broad spectrums were started, so could argue that
   he needs to continue them.
   - If he continues to need these [**Last Name (LF) **], [**First Name3 (LF) 116**] need PICC placed
   # Corneal ulcer.  s/p eyelid suturing with ophthal.  Likely related to
   inability to protect eye with neurologic deficits.
   - vigamox and bacitracin ointment.
   - f/u ophthalmology recs..
   # Elevated LFTs.  Improving though.  Unclear etiology, possibly due to
   ceftriaxone.
   - Continue to trend.  If he has fevers again, would further address
   # Accelerated idioventricular rhythm.  Cards saw; thought benign and
   not related to lyme disease.
   - Continue metoprolol at current dosing.
   # H/o Hypernatremia. Not active currently but needs to be watched and
   given free H20 flushes if Na increases again. Will d/c current free H20
   flushes now.
   FEN: correct/replete electrolytes, tube feeds
   Prophylaxis: Subutaneous heparin, H2B
   Access: Peripherals. As he has now been afebrile greater than 48hrs,
   will place PICC for [**First Name3 (LF) **] and other med needs as he will likely need
   [**Location (un) **] care for quite a while, either at [**Hospital1 1**] or rehab
   Code:  Full Code
   Communication: Patient & Son, [**Name (NI) 152**] [**Name (NI) **] [**Telephone/Fax (1) 9234**]
   Disposition: pending clinical improvement; eventuall for rehab
   screening.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2102-10-19**] 02:00 AM 70 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2102-10-19**] 06:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-10-19 11:10:00 Physician Attending Progress Note
Chief Complaint: Lyme encephalitis, Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Bronch yesterday for mucous plugging --> back on vent overnight.
   24 Hour Events:
 BRONCHOSCOPY - At [**2102-10-18**] 06:30 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2102-10-18**] 03:00 AM
   Ciprofloxacin - [**2102-10-19**] 04:00 AM
   Ceftriaxone - [**2102-10-19**] 05:48 AM
   Cefipime - [**2102-10-19**] 06:49 AM
   Vancomycin - [**2102-10-19**] 08:29 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2102-10-19**] 06:13 AM
   Heparin Sodium (Prophylaxis) - [**2102-10-19**] 08:30 AM
   Other medications:
   per ICU resident
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: PEG
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2102-10-19**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.1
C (97
   HR: 72 (70 - 109) bpm
   BP: 94/67(73) {85/47(57) - 144/93(116)} mmHg
   RR: 11 (8 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.6 kg (admission): 83.1 kg
   Height: 70 Inch
             Total In:
                                                                  4,147 mL
                                                                  1,577 mL
   PO:
             TF:
                                                                  1,437 mL
                                                                    767 mL
   IVF:
                                                                  1,620 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                  1,315 mL
                                                                    675 mL
   Urine:
                                                                  1,315 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,832 mL
                                                                    902 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 712 (562 - 712) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 15
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 27
   PIP: 14 cmH2O
   Plateau: 15 cmH2O
   Compliance: 64.3 cmH2O/mL
   SpO2: 100%
   ABG: ///35/
   Ve: 10.6 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   328 K/uL
   113 mg/dL
   0.5 mg/dL
   35 mEq/L
   4.2 mEq/L
   15 mg/dL
   103 mEq/L
   140 mEq/L
   28.9 %
   8.1 K/uL
        [image002.jpg]
                             [**2102-10-14**]  01:54 AM
                             [**2102-10-15**]  02:11 AM
                             [**2102-10-15**]  07:27 AM
                             [**2102-10-16**]  02:49 AM
                            [**2102-10-17**]  02:31 AM
                            [**2102-10-17**]  04:37 PM
                            [**2102-10-18**]  04:49 AM
                            [**2102-10-18**]  02:25 PM
                            [**2102-10-18**]  11:00 PM
                            [**2102-10-19**]  02:32 AM
   WBC
   12.1
   14.2
   17.5
   12.2
   8.1
   Hct
   35.1
   34.0
   36.1
   31.7
   28.9
   Plt
   [**Telephone/Fax (3) 9272**]87
   328
   Cr
   0.6
   0.7
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   36
   Glucose
   127
   161
   142
   121
   196
   131
   98
   112
   113
   Other labs: PT / PTT / INR:13.0/26.4/1.1, CK / CKMB /
   Troponin-T:30//<0.01, ALT / AST:44/30, Alk Phos / T Bili:105/0.3,
   Amylase / Lipase:74/21, Differential-Neuts:76.9 %, Band:0.0 %,
   Lymph:12.7 %, Mono:8.5 %, Eos:1.7 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.5 g/dL, LDH:172 IU/L, Ca++:8.2 mg/dL, Mg++:2.4 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 ALTERATION IN ELIMINATION RELATED TO CONSTIPATION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 LYME DISEASE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Bells Palsy
   Assessment and Plan
   63 y/o man with Lyme encephalitis, respiratory failure, delerium.  Now
   back on ventilator after episode of mucous plugging - but improved this
   AM.
   Hypotension: Normotensive with decrease in metoprolol dose
   Ongoing encephalopathy: Continue treatment for Lyme encephalitis.
   Delerium continues to be an issue - but somewhat better this AM
   Respiratory failure: Ongoing secretions but improved - retry on trach
   mask today.
   Fever
   Currently afebrile.  On vanc/CTX/cipro - got cefepime x2 doses
   Afib: Continue metoprolol (at reduced dose)
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2102-10-19**] 02:00 AM 70 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2102-10-19**] 06:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2102-10-20 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Start Methadone taper; recs from [**Doctor First Name 1723**] are 3 days at 7.5 TID, 3days at
   5 TID, 3 days at 2.5 TID until taper done.
   - Needs a PICC
   - ID recommended ceftriaxone rather than cefipime
   - Call Psych:
   - Trach mask trial:
   - Stop ISS, d/c free H20 flushes
   -team meeting on the 13th at 4pm
   Allergies:
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2102-10-18**] 03:00 AM
   Cefipime - [**2102-10-19**] 06:49 AM
   Ciprofloxacin - [**2102-10-19**] 03:00 PM
   Ceftriaxone - [**2102-10-19**] 05:33 PM
   Vancomycin - [**2102-10-19**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-10-19**] 05:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-10-20**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.4
   HR: 84 (68 - 123) bpm
   BP: 99/62(71) {80/50(58) - 144/90(103)} mmHg
   RR: 14 (7 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.6 kg (admission): 83.1 kg
   Height: 70 Inch
                  Total In:
                                                                  3,034 mL
                                                                    494 mL
   PO:
                  TF:
                                                                  1,684 mL
                                                                    494 mL
   IVF:
                                                                    950 mL
   Blood products:
   Total out:
                                                                  1,755 mL
                                                                    315 mL
   Urine:
                                                                  1,755 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,279 mL
                                                                    179 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 627 (358 - 627) mL
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 54
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: 7.41/60/91/38/10
   Ve: 8 L/min
   PaO2 / FiO2: 182
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   322 K/uL
   9.9 g/dL
   140 mg/dL
   0.5 mg/dL
   38 mEq/L
   4.2 mEq/L
   12 mg/dL
   101 mEq/L
   142 mEq/L
   29.1 %
   7.7 K/uL
        [image002.jpg]
                             [**2102-10-15**]  07:27 AM
                             [**2102-10-16**]  02:49 AM
                            [**2102-10-17**]  02:31 AM
                            [**2102-10-17**]  04:37 PM
                            [**2102-10-18**]  04:49 AM
                            [**2102-10-18**]  02:25 PM
                            [**2102-10-18**]  11:00 PM
                            [**2102-10-19**]  02:32 AM
                            [**2102-10-19**]  05:33 PM
                            [**2102-10-20**]  02:09 AM
   WBC
   17.5
   12.2
   8.1
   7.7
   Hct
   36.1
   31.7
   28.9
   29.1
   Plt
   448
   387
   328
   322
   Cr
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   36
   39
   Glucose
   142
   121
   196
   131
   98
   112
   113
   140
   Other labs: PT / PTT / INR:13.0/26.4/1.1, CK / CKMB /
   Troponin-T:62//<0.01, ALT / AST:40/23, Alk Phos / T Bili:103/0.3,
   Amylase / Lipase:74/21, Differential-Neuts:76.9 %, Band:0.0 %,
   Lymph:12.7 %, Mono:8.5 %, Eos:1.7 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.5 g/dL, LDH:172 IU/L, Ca++:8.3 mg/dL, Mg++:2.6 mg/dL, PO4:4.2
   mg/dL
   Assessment and Plan
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 ALTERATION IN ELIMINATION RELATED TO CONSTIPATION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 LYME DISEASE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Bells Palsy
   63M with HTN, ITP, admitted with neurologic changes and found to have
   lyme encephalitis.  Now transferred with continued altered mental
   status and fever.
   # Hypotension: Has been having periods of hypotension with SBPs to
   80s.  Responded to IV fluids and started on vanc, zosyn and cipro for a
   presumed hospital acquired pneumonia (had had CXR that showed possible
   new RLL infiltrates).  The hypotension also happened soon after
   receiving several medications, and was repeated this morning after
   receiving metoprolol, clonidine, methadone and seroquel. Unclear that
   this hypotension represents a brewing sepsis. Afebrile since [**2102-10-16**] at
   4pm.
   - BP
s currently look good but if continued hypotension consider DC
   Clonidine or Metoprolol
   - He had had a cards consult for tachycardia, which they felt was an
   accelerated idioventricular rhythm that would not likely respond to
   metoprolol, but his metoprolol was still increased to 75mg TID, but
   then backed down to 25mg TID.
   # Lyme encephalitis.  Highly suspected based on MR findings, serum and
   CSF serologies.  On stable treatment course for planned 4 weeks with
   ceftriaxone.  With some persistent neurologic deficits.
   - F/u with ID about whether he should be on Ceftriaxone and Cefipime
   - Have spoke to pharmacy
 Cefipime not good Lyme coverage and
   Ceftriaxone not good Pseudomonas coverage.
   - 28 day course of ceftriaxone
 now day 24 of 28.
   - Neurology following; unclear if deficits permanent.
   # Agitation/altered mental status. Primarily due to encephalitis,
   though could be multifactorial - electrolyte abnormalities, other
   concurrent infection, med related.  Also with some chronic narcotic
   use.  He responds well to PRN haldol, but we will try to avoid chemical
   sedation and restraints with frequent re-orientation.
   - Pt has been on Methadone 10 mg TID for chronic pain control issues
   but will try to wean this off as not clear that pt is in pain and that
   he needs it. Will contact pharmacy about how to wean safely.
   - Seroquel 25 mg [**Hospital1 **] for agitation.
   - Can also give Haldol 2mg prn agitation.
   - Given that nutritional deficits appear very unlikely, IV thiamine,
   folate and multivitamin have been d/c'd.
   # Respiratory failure.  Now doing well on trach mask. Seems to desat
   with plugging/secretions at times.  Atelectasis on imaging.
   - f/u CXR read.
   - Continue vent wean as tolerated
   - will do trach mask trail today
   - Continue inhaled meds as prior for bronchospasm (no clear history of
   COPD, though with significant smoking history).
   # Fever.  Daily low grade temps [**Date range (1) 9233**] (100-100.3), but has been
   afebrile since [**2102-10-14**] at 7am. Was only on Ceftraxone, but several more
   [**Year (2 digits) **]
s were added on due to transient hypotense episodes. All recent
   cultures negative. CXR bilateral base opacification, atelectasis vs PNA
   but this has been present for several previous CXR
s and the pt is
   being covered with very broad spectrum [**Year (2 digits) **]. Recent PICC has been pulled
   and cath tip is negative. No clear infectious source other than the IgM
   Lyme for which he is almost done with 4wk course of Ceftriaxone.
   - Continue broad spectrums as above but will need to start thinking
   about peeling some back if there is no clear source. However, pt has
   been afebrile since broad spectrums were started, so could argue that
   he needs to continue them.
   - If he continues to need these [**Last Name (LF) **], [**First Name3 (LF) 116**] need PICC placed
   # Corneal ulcer.  s/p eyelid suturing with ophthal.  Likely related to
   inability to protect eye with neurologic deficits.
   - vigamox and bacitracin ointment.
   - f/u ophthalmology recs..
   # Elevated LFTs.  Improving though.  Unclear etiology, possibly due to
   ceftriaxone.
   - Continue to trend.  If he has fevers again, would further address
   # Accelerated idioventricular rhythm.  Cards saw; thought benign and
   not related to lyme disease.
   - Continue metoprolol at current dosing.
   # H/o Hypernatremia. Not active currently but needs to be watched and
   given free H20 flushes if Na increases again. Will d/c current free H20
   flushes now.
   FEN: correct/replete electrolytes, tube feeds
   Prophylaxis: Subutaneous heparin, H2B
   Access: Peripherals. As he has now been afebrile greater than 48hrs,
   will place PICC for [**First Name3 (LF) **] and other med needs as he will likely need
   [**Location (un) **] care for quite a while, either at [**Hospital1 1**] or rehab
   Code:  Full Code
   Communication: Patient & Son, [**Name (NI) 152**] [**Name (NI) **] [**Telephone/Fax (1) 9234**]
   Disposition: pending clinical improvement; eventuall for rehab
   screening.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2102-10-19**] 09:55 PM 70 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2102-10-19**] 06:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-10-21 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2102-10-20**] 01:24 PM
   - f/u XRay for PICC: in low SVC. Small R pleural effusion decreased but
   R lung base remains elevated and atelectatic. Atelectasis of L base has
   improved
   - Clonidine taper: 0.1mg [**Hospital1 **] x3 days, then 0.1mg daily x3days, then OFF
   - Cdiff negative
   - Off ABx except Ceftriaxone for the Lyme and watch to see if he
   re-spikes or WBC's increase...if there is an infxn let it declare
   itself
   - Quiet after Quietiapine
   - Family mtg today: goals are wean from the ventilator, improve mental
   status by streamlining medications and to continue to search for any
   sources and signs of infection.  Long Term Acute Rehab was discussed as
   the most likely next destination and the family is planning on visiting
   some facilities in the near future.
   Allergies:
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2102-10-19**] 06:49 AM
   Ciprofloxacin - [**2102-10-19**] 03:00 PM
   Vancomycin - [**2102-10-20**] 08:15 AM
   Ceftriaxone - [**2102-10-20**] 06:25 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-10-20**] 07:55 AM
   Famotidine (Pepcid) - [**2102-10-20**] 07:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-10-21**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 83 (70 - 107) bpm
   BP: 143/89(103) {85/47(62) - 181/101(121)} mmHg
   RR: 14 (7 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.6 kg (admission): 83.1 kg
   Height: 70 Inch
                  Total In:
                                                                  2,110 mL
                                                                    271 mL
   PO:
                  TF:
                                                                  1,680 mL
                                                                    271 mL
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,190 mL
                                                                    465 mL
   Urine:
                                                                  1,190 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    920 mL
                                                                   -194 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 333 (304 - 564) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 44
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: ///42/
   Ve: 10.7 L/min
   Physical Examination
   Gen: middle aged male in NAD, does appear slightly less agitated today
   than yesterday, appears to be pointing to his foot when asked about
   pain
   HEENT: right eye covered, MMM
   CV: RRR, no M/R/G
   Lungs: Slightly decreased at bases
   [**Last Name (un) **]:  NABS, soft, ND, NT
   Extrem: ulceration between right great and second toe, red, inflamed,
   warm, pt seems to be reporting pain in this area; no lymphangitic
   streaking; no edema
   Labs / Radiology
   333 K/uL
   10.4 g/dL
   140 mg/dL
   0.5 mg/dL
   42 mEq/L
   5.0 mEq/L
   12 mg/dL
   101 mEq/L
   144 mEq/L
   30.9 %
   8.2 K/uL
        [image002.jpg]
                             [**2102-10-16**]  02:49 AM
                            [**2102-10-17**]  02:31 AM
                            [**2102-10-17**]  04:37 PM
                            [**2102-10-18**]  04:49 AM
                            [**2102-10-18**]  02:25 PM
                            [**2102-10-18**]  11:00 PM
                            [**2102-10-19**]  02:32 AM
                            [**2102-10-19**]  05:33 PM
                            [**2102-10-20**]  02:09 AM
                            [**2102-10-21**]  02:33 AM
   WBC
   17.5
   12.2
   8.1
   7.7
   8.2
   Hct
   36.1
   31.7
   28.9
   29.1
   30.9
   Plt
   448
   387
   328
   322
   333
   Cr
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   39
   Glucose
   142
   121
   196
   131
   98
   112
   113
   140
   140
   Other labs: PT / PTT / INR:13.0/26.4/1.1, CK / CKMB /
   Troponin-T:62//<0.01, ALT / AST:40/23, Alk Phos / T Bili:103/0.3,
   Amylase / Lipase:74/21, Differential-Neuts:76.9 %, Band:0.0 %,
   Lymph:12.7 %, Mono:8.5 %, Eos:1.7 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.5 g/dL, LDH:172 IU/L, Ca++:8.8 mg/dL, Mg++:2.7 mg/dL, PO4:3.9
   mg/dL
   Imaging: CXR [**10-20**]: Previous small right pleural effusion has decreased
   but the right lung base remains elevated and atelectatic. Milder
   atelectasis at the left base has
   improved. Upper lungs clear. Heart size normal. No pneumothorax. Normal
   mediastinal contour. Tracheostomy tube in standard placement.
   Microbiology: All negative to date
   Respiratory viral panel insufficient cells
   Assessment and Plan
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 ALTERATION IN ELIMINATION RELATED TO CONSTIPATION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 LYME DISEASE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Bells Palsy
   63M with HTN, ITP, admitted with neurologic changes and found to have
   lyme encephalitis.  Now transferred with continued altered mental
   status and fever.
   # Lyme encephalitis.  Highly suspected based on MR findings, serum and
   CSF serologies.  On stable treatment course for planned 4 weeks with
   ceftriaxone.  With some persistent neurologic deficits.
   - Have spoke to pharmacy
 Cefipime not good Lyme coverage and
   Ceftriaxone not good Pseudomonas coverage.
   - 28 day course of ceftriaxone
 now day 26 of 28.
   - Neurology following; unclear if deficits permanent.
   # Agitation/altered mental status. Primarily due to encephalitis,
   though could be multifactorial - electrolyte abnormalities, other
   concurrent infection, med related.  Also with some chronic narcotic
   use.  He responds well to PRN haldol, but we will try to avoid chemical
   sedation and restraints with frequent re-orientation. Will try to
   minimize all medications. Also increase seroquel given that he has had
   periods where he appears more normal and then periods where he appears
   more confused (waxing and [**Doctor Last Name 282**]).
   - Pt has been on Methadone 10 mg TID for chronic pain control issues
   but will try to wean this off as not clear that pt is in pain and that
   he needs it. Currently tapering
   - Seroquel 25 mg TID for agitation
 increase to 25 mg qAM, qafternoon
   and then 50mg QHS.
   # Respiratory failure: CXR yesterday does appear improved, making PNA
   less likely. Sputum cultures have been negative.  Patient has periods
   of apnea when sleeping. Trache mask trial today.
   - Continue vent wean as tolerated
   - Continue inhaled meds as prior for bronchospasm (no clear history of
   COPD, though with significant smoking history).
   #Metabolic Alkalosis: Bicarb has been trending up. Will check urine
   chloride to assess if possibly volume depleted.
   -ABG
   -Urine chloride
   -Will give diamox
   # Hypotension: Has been having periods of hypotension with SBPs to
   80s.  Responded to IV fluids and started on vanc, cefepime and cipro
   for a presumed hospital acquired pneumonia (had had CXR that showed
   possible new RLL infiltrates).  Will try stopping some
   antihypertensives and see if this improves. D/c clonodine given that he
   is on metoprolol for control of HR after an accelerated idioventricular
   rhythm
   - Taper clonodine
   -Clonodine taper: 0.1 mg [**Hospital1 **] x3 days (today is day #2), then 0.1 mg
   daily x3 days, then off
   - He had had a cards consult for tachycardia, which they felt was an
   accelerated idioventricular rhythm, given metoprolol for this.
   # Fever.  Daily low grade temps [**Date range (1) 9233**] (100-100.3), but has been
   afebrile since [**2102-10-16**] at 4pm. Was only on Ceftriaxone, but several
   more ABx
s were added on due to transient hypotense episodes. All
   recent cultures negative. CXR bilateral base opacification, atelectasis
   vs PNA but this has been present for several previous CXR
s. PT was
   started on cefepime, vanco and cipro, but in the setting of negative
   cultures will plan to d/c these antibiotics. Also trying to minimize
   medications in the setting of confusion and agitation. No clear
   infectious source other than the IgM Lyme for which he is almost done
   with 4wk course of Ceftriaxone.
   # Corneal ulcer.  s/p eyelid suturing with ophthal.  Likely related to
   inability to protect eye with neurologic deficits.
   - vigamox and bacitracin ointment.
   - f/u ophthalmology recs..
   # Elevated LFTs.  Improving though.  Unclear etiology, possibly due to
   ceftriaxone.
   - Continue to trend.  If he has fevers again, would further address
   # Accelerated idioventricular rhythm.  Cards saw; thought benign and
   not related to lyme disease.
   - Continue metoprolol at current dosing.
   FEN: correct/replete electrolytes, tube feeds
   Prophylaxis: Subcutaneous heparin, H2B
   Access: Peripherals, PICC in place
   Code:  Full Code
   Communication: Patient & Son, [**Name (NI) 152**] [**Name (NI) **] [**Telephone/Fax (1) 9234**]
   Disposition: pending clinical improvement; eventual for rehab
   screening.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2102-10-20**] 01:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-10-22 06:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - ABG - rising pCO2 and bicarb. Started acetazolamide.
   - neuro recs
   - changed Seroquel to 25, 25, 50.
   - Urine lytes -> Cl 61 suggesting he is not fluid down.
   - slightly positive - gave 10mg IV lasix as he is relatively lasix
   naive.  Goal is -500ccs.
   - Pulled PICC out ~5cm at 11:30pm.  Seen by IV nurse who said that it
   can still be used as IV access but not as central line.  On IV drug
   currently is ceftriaxone.
   Allergies:
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2102-10-19**] 06:49 AM
   Ciprofloxacin - [**2102-10-19**] 03:00 PM
   Vancomycin - [**2102-10-20**] 08:15 AM
   Ceftriaxone - [**2102-10-21**] 05:13 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2102-10-21**] 09:11 PM
   Heparin Sodium (Prophylaxis) - [**2102-10-22**] 01:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-10-22**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 86 (76 - 106) bpm
   BP: 129/90(99) {84/54(61) - 170/95(99)} mmHg
   RR: 8 (7 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.6 kg (admission): 83.1 kg
   Height: 70 Inch
             Total In:
                                                                  1,987 mL
                                                                    475 mL
   PO:
             TF:
                                                                  1,687 mL
                                                                    420 mL
   IVF:
                                                                    180 mL
                                                                     55 mL
   Blood products:
   Total out:
                                                                  1,755 mL
                                                                    477 mL
   Urine:
                                                                  1,755 mL
                                                                    477 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    232 mL
                                                                     -2 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 5,498 (435 - 5,498) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 10
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 11
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: 7.43/65/133/35/16
   Ve: 7.6 L/min
   PaO2 / FiO2: 266
   Physical Examination
   Gen: following some commands, does not appear oriented, drowsy but
   arousable, NAD
   HEENT: right eye patch in place, intubated, MMM
   CV: RRR, no M/R/G
   Lungs: decreased breath sounds at bases
   [**Last Name (un) **]: NABS, soft, ND, NT
   Extrem: right toe ulceration (between great and second toe) improved,
   less redness surrounding
   Skin: back macular rash, red, appears less warm, slightly improved
   today
   Labs / Radiology
   317 K/uL
   10.6 g/dL
   158 mg/dL
   0.7 mg/dL
   35 mEq/L
   4.9 mEq/L
   12 mg/dL
   107 mEq/L
   146 mEq/L
   32.5 %
   7.7 K/uL
        [image002.jpg]
                            [**2102-10-18**]  04:49 AM
                            [**2102-10-18**]  02:25 PM
                            [**2102-10-18**]  11:00 PM
                            [**2102-10-19**]  02:32 AM
                            [**2102-10-19**]  05:33 PM
                            [**2102-10-20**]  02:09 AM
                            [**2102-10-21**]  02:33 AM
                            [**2102-10-21**]  10:06 AM
                            [**2102-10-21**]  04:41 PM
                            [**2102-10-22**]  02:10 AM
   WBC
   8.1
   7.7
   8.2
   8.2
   7.7
   Hct
   28.9
   29.1
   30.9
   30.9
   32.5
   Plt
   328
   322
   333
    333
   317
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   0.7
   TCO2
   39
   45
   Glucose
   131
   98
   112
   113
   140
   140
   158
   Other labs: PT / PTT / INR:13.0/26.4/1.1, CK / CKMB /
   Troponin-T:62//<0.01, ALT / AST:40/23, Alk Phos / T Bili:103/0.3,
   Amylase / Lipase:74/21, Differential-Neuts:76.9 %, Band:0.0 %,
   Lymph:12.7 %, Mono:8.5 %, Eos:1.7 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.5 g/dL, LDH:172 IU/L, Ca++:8.8 mg/dL, Mg++:2.7 mg/dL, PO4:4.6
   mg/dL
   Imaging: CXR [**10-22**]: Pt pulled back PICC line. Tip of R PICC in the
   lateral R subclavian vein or
   the axillary vein. Tracheostomy tube 5.5 cm above the carina
   Assessment and Plan
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 ALTERATION IN ELIMINATION RELATED TO CONSTIPATION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 LYME DISEASE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Bells Palsy
   63M with HTN, ITP, admitted with neurologic changes and found to have
   lyme encephalitis.  Now transferred with continued altered mental
   status and fever.
   # Lyme encephalitis.  Highly suspected based on MR findings, serum and
   CSF serologies.  On stable treatment course for planned 4 weeks with
   ceftriaxone.  With some persistent neurologic deficits.
   - Have spoke to pharmacy
 Cefipime not good Lyme coverage and
   Ceftriaxone not good Pseudomonas coverage.
   - 28 day course of ceftriaxone
 now day 27 of 28.
   - Neurology following; unclear if deficits permanent.
   # Agitation/altered mental status. Primarily due to encephalitis,
   though could be multifactorial - electrolyte abnormalities, other
   concurrent infection, med related.  Also with some chronic narcotic
   use.  He responds well to PRN haldol, but we will try to avoid chemical
   sedation and restraints with frequent re-orientation. Will try to
   minimize all medications. Seroquel increased yesterday, only overnight
   dose. Per nursing patient slept through the night but seems still very
   out of it this morning.
   - Pt has been on Methadone 10 mg TID for chronic pain control issues
   but will try to wean this off as not clear that pt is in pain and that
   he needs it. Currently tapering. Today day #3 of 3 days at 7.5 TID,
   then will go to 3 days at 5 TID, 3 days at 2.5 TID until taper done.
   - Decrease Seroquel 25 mg TID for agitation
   -EKG to assess QTc in setting of seroquel usage
   # Respiratory failure: CXR yesterday does appear improved, making PNA
   less likely. Sputum cultures have been negative.  Patient has periods
   of apnea when sleeping. Will decrease Seroquel as patient did appear
   apneic overnight, overly sedated a possibility. Trache mask trial
   today.
   - Continue vent wean as tolerated
   - Continue inhaled meds as prior for bronchospasm (no clear history of
   COPD, though with significant smoking history).
   #Metabolic Alkalosis: Bicarb normalized. Urine chloride was normal,
   suggesting he is not volume depleted. Not related to hypokalemia as K+
   is normal. Unclear source. Will not give more acetazolamide at this
   time, but continue to monitor.
   -ABG tomorrow
   # Hypotension: Has been having periods of hypotension with SBPs to
   80s.  Responded to IV fluids and started on vanc, cefepime and cipro
   for a presumed hospital acquired pneumonia (had had CXR that showed
   possible new RLL infiltrates).  Will try stopping some
   antihypertensives and see if this improves. D/c clonodine given that he
   is on metoprolol for control of HR after an accelerated idioventricular
   rhythm. Per nursing, patient did have some of his episodes of
   hypotension immediately after seroquel evening dose.
   - Taper clonodine
   -Clonodine taper: 0.1 mg [**Hospital1 **] x3 days (today is day #3), then 0.1 mg
   daily x3 days, then off
   - He had had a cards consult for tachycardia, which they felt was an
   accelerated idioventricular rhythm, given metoprolol for this.
   -Timing of meds: patient is getting many of his medications together,
   may be causing hypotensive periods. Nursing will work on timing meds
   better today.
   # Fever.  Daily low grade temps [**Date range (1) 9233**] (100-100.3), but has been
   afebrile since [**2102-10-16**] at 4pm. Was only on Ceftriaxone, but several
   more ABx
s were added on due to transient hypotense episodes. All
   recent cultures negative. CXR bilateral base opacification, atelectasis
   vs PNA but this has been present for several previous CXR
s. PT was
   started on cefepime, vanco and cipro, but in the setting of negative
   cultures will plan to d/c these antibiotics. Also trying to minimize
   medications in the setting of confusion and agitation. No clear
   infectious source other than the IgM Lyme for which he is almost done
   with 4wk course of Ceftriaxone.
   # Corneal ulcer.  s/p eyelid suturing with ophthal.  Likely related to
   inability to protect eye with neurologic deficits.
   - vigamox and bacitracin ointment.
   - f/u ophthalmology recs..
   # Elevated LFTs.  Normalized.  Unclear etiology, possibly due to
   ceftriaxone.
   - Continue to trend.  If he has fevers again, would further address
   #Hypernatremia: free water 250 cc q4 hours with tube feeding
   # Accelerated idioventricular rhythm.  Cards saw; thought benign and
   not related to lyme disease.
   - Continue metoprolol at current dosing.
   FEN: correct/replete electrolytes, tube feeds
   Prophylaxis: Subcutaneous heparin, H2B
   Access: Peripherals, PICC in place
   Code:  Full Code
   Communication: Patient & Son, [**Name (NI) 152**] [**Name (NI) **] [**Telephone/Fax (1) 9234**]
   Disposition: pending clinical improvement; eventual for rehab
   screening.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2102-10-21**] 11:44 PM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2102-10-20**] 01:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-10-23 07:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Clonidine and seroquel doses decreased to help alertness
   - Methadone tapering
   - Diomox single dose with bicarb improvement
   - Rash
 appears slightly better, follow for now.
   - Hypernatremia - restart free water.
   Allergies:
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2102-10-20**] 08:15 AM
   Ceftriaxone - [**2102-10-22**] 06:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2102-10-22**] 09:07 AM
   Famotidine (Pepcid) - [**2102-10-22**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2102-10-23**] 12:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-10-23**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.2
C (98.9
   HR: 83 (82 - 109) bpm
   BP: 118/63(77) {96/57(67) - 138/80(105)} mmHg
   RR: 13 (8 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.6 kg (admission): 83.1 kg
   Height: 70 Inch
             Total In:
                                                                  2,315 mL
                                                                    760 mL
   PO:
             TF:
                                                                  1,700 mL
                                                                    476 mL
   IVF:
                                                                    245 mL
                                                                     34 mL
   Blood products:
   Total out:
                                                                  2,387 mL
                                                                    620 mL
   Urine:
                                                                  2,387 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -72 mL
                                                                    140 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: Standby
   Vt (Set): 400 (400 - 400) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 33
   PEEP: 8 cmH2O
   FiO2: 50%
   SpO2: 96%
   ABG: ///35/
   Ve: 9.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   315 K/uL
   11.5 g/dL
   146 mg/dL
   0.7 mg/dL
   35 mEq/L
   4.4 mEq/L
   14 mg/dL
   106 mEq/L
   146 mEq/L
   34.8 %
   8.0 K/uL
        [image002.jpg]
                            [**2102-10-18**]  02:25 PM
                            [**2102-10-18**]  11:00 PM
                            [**2102-10-19**]  02:32 AM
                            [**2102-10-19**]  05:33 PM
                            [**2102-10-20**]  02:09 AM
                            [**2102-10-21**]  02:33 AM
                            [**2102-10-21**]  10:06 AM
                            [**2102-10-21**]  04:41 PM
                            [**2102-10-22**]  02:10 AM
                            [**2102-10-23**]  12:25 AM
   WBC
   8.1
   7.7
   8.2
   8.2
   7.7
   8.0
   Hct
   28.9
   29.1
   30.9
   30.9
   32.5
   34.8
   Plt
   328
   322
   333
    333
   317
   315
   Cr
   0.5
   0.5
   0.5
   0.5
   0.7
   0.7
   TCO2
   39
   45
   Glucose
   98
   112
   113
   140
   140
   158
   146
   Other labs: PT / PTT / INR:13.0/26.4/1.1, CK / CKMB /
   Troponin-T:62//<0.01, ALT / AST:40/23, Alk Phos / T Bili:103/0.3,
   Amylase / Lipase:74/21, Differential-Neuts:76.9 %, Band:0.0 %,
   Lymph:12.7 %, Mono:8.5 %, Eos:1.7 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.5 g/dL, LDH:172 IU/L, Ca++:8.9 mg/dL, Mg++:2.6 mg/dL, PO4:4.5
   mg/dL
   Micro [**10-20**] Cdiff negative
   [**10-18**] negative viral Cx
   [**10-18**] mini BAL all negative
   Last BCx [**10-16**]
   Last CXR [**10-22**]
   PICC is more proxima. R lung base elevated with stable atelectasis. No
   overt pulm edema. Hazy left retrocardiac infiltrate is stable.
   Assessment and Plan
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 ALTERATION IN ELIMINATION RELATED TO CONSTIPATION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 LYME DISEASE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Bells Palsy
   63M with HTN, ITP, admitted with neurologic changes and found to have
   lyme encephalitis.  Now transferred with continued altered mental
   status and fever.
   # Lyme encephalitis.  Highly suspected based on MR findings, serum and
   CSF serologies.  On stable treatment course for planned 4 weeks with
   ceftriaxone.  With some persistent neurologic deficits.
   - Have spoke to pharmacy--Cefipime not good Lyme coverage and
   Ceftriaxone not good Pseudomonas coverage.
   - 28 day course of ceftriaxone
 now day 28 of 28.
   - Neurology following; unclear if deficits permanent.
   # Agitation/altered mental status. Primarily due to encephalitis,
   though could be multifactorial - electrolyte abnormalities, other
   concurrent infection, med related.  Also with some chronic narcotic
   use.  He responds well to PRN haldol, but we will try to avoid chemical
   sedation and restraints with frequent re-orientation. Will try to
   minimize all medications. PM Seroquel dose has been increased but 8am
   and 2pm doses have been decreased.
   - Pt has been on Methadone 10 mg TID for chronic pain control issues
   but will try to wean this off as not clear that pt is in pain and that
   he needs it. Currently tapering. Today day #1 of 3 days at 5 TID, then
   will go to 3 days at 2.5 TID
   - Currently on Seroquel 12.5 [**Hospital1 **] with hs dose 25mg
   -EKG to assess QTc in setting of seroquel usage
   # Respiratory failure: CXR yesterday does appear improved, making PNA
   less likely. Sputum cultures have been negative.  Patient has periods
   of apnea when sleeping. Will decrease Seroquel as patient did appear
   apneic overnight, overly sedated a possibility. Trache mask trial
   today.
   - Continue vent wean as tolerated
   - Continue inhaled meds as prior for bronchospasm (no clear history of
   COPD, though with significant smoking history).
   #Metabolic Alkalosis: Bicarb normalized. Urine chloride was normal,
   suggesting he is not volume depleted. Not related to hypokalemia as K+
   is normal. Unclear source. Will not give more acetazolamide at this
   time, but continue to monitor.
   -ABG today to reassess
   # Hypotension: Has been having periods of hypotension with SBPs to
   80s.  Responded to IV fluids and started on vanc, cefepime and cipro
   for a presumed hospital acquired pneumonia (had had CXR that showed
   possible new RLL infiltrates).  Will try stopping some
   antihypertensives and see if this improves. D/c clonodine given that he
   is on metoprolol for control of HR after an accelerated idioventricular
   rhythm. Per nursing, patient did have some of his episodes of
   hypotension immediately after seroquel evening dose.
   - Currently tapering clonodine
   - Clonodine taper: today will go down to 0.1mg daily x3 days, then off
   - He had had a cards consult for tachycardia, which they felt was an
   accelerated idioventricular rhythm, given metoprolol for this.
   -Timing of meds: patient is getting many of his medications together,
   may be causing hypotensive periods. Touch base with nursing to ensure
   staggered timing of meds
   # Fever.  Daily low grade temps [**Date range (1) 9233**] (100-100.3), but has been
   afebrile since [**2102-10-16**] at 4pm. Was only on Ceftriaxone, but several
   more ABx
s were added on due to transient hypotense episodes. All
   recent cultures negative. CXR bilateral base opacification, atelectasis
   vs PNA but this has been present for several previous CXR
s. PT was
   started on cefepime, vanco and cipro, but in the setting of negative
   cultures will plan to d/c these antibiotics. Also trying to minimize
   medications in the setting of confusion and agitation. No clear
   infectious source other than the IgM Lyme for which he is almost done
   with 4wk course of Ceftriaxone.
   - Pt now had low grade 100.1 temp overnight. Today he is ending his
   course of Ceftriaxone for the Lyme.
   - Plan was that we were d/c'ing ABx and waiting for an infection to
   declare itself if there was one present. If he continues to be febrile
   and WBC's increase will need to reconsider adding ABx, wiill watch
   through today
   - If febrile again, needs recultures of everything
   # Corneal ulcer.  s/p eyelid suturing with ophthal.  Likely related to
   inability to protect eye with neurologic deficits.
   - vigamox and bacitracin ointment.
   - f/u ophthalmology recs..
   # Elevated LFTs.  Normalized.  Unclear etiology, possibly due to
   ceftriaxone.
   - Continue to trend.  If he has fevers again, would further address
   #Hypernatremia: free water 250 cc q4 hours with tube feeding
   - F/u PM lytes today
   # Accelerated idioventricular rhythm.  Cards saw; thought benign and
   not related to lyme disease.
   - Continue metoprolol at current dosing.
   FEN: correct/replete electrolytes, tube feeds
   Prophylaxis: Subcutaneous heparin, H2B
   Access: Peripherals, PICC was pulled out a little bit 2 days ago, but
   is still usable, just not a central line
   Code:  Full Code
   Communication: Patient & Son, [**Name (NI) 152**] [**Name (NI) **] [**Telephone/Fax (1) 9234**]
   Disposition: pending clinical improvement; eventual for rehab
   screening.

2102-10-24 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - f/u neuro ? repeat LP --> does not need repeat LP
   - ABG for alkalosis --> NOT DONE, do tomorrow
   - PM Na improved 146 --> 143
   -per nursing more agitated overnight, climbing out of bed
   Allergies:
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2102-10-23**] 07:26 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-10-23**] 04:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-10-24**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.8
   HR: 99 (76 - 103) bpm
   BP: 131/77(90) {110/56(68) - 154/90(103)} mmHg
   RR: 30 (9 - 31) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.6 kg (admission): 83.1 kg
   Height: 70 Inch
             Total In:
                                                                  2,237 mL
                                                                    543 mL
   PO:
             TF:
                                                                  1,697 mL
                                                                    507 mL
   IVF:
                                                                    170 mL
                                                                     36 mL
   Blood products:
   Total out:
                                                                  1,805 mL
                                                                    650 mL
   Urine:
                                                                  1,805 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    432 mL
                                                                   -105 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   SpO2: 93%
   ABG: ///37/
   Physical Examination
   Gen: patient very agitated, keeps saying
right now
, thrashing some;
   will follow commands
   HEENT: right eye covered due to corneal ulceration
   Lungs: CTA b/l
   CV: RRR, no M/R/G
   [**Last Name (un) **]: NABS, soft, ND, NT
   Extrem: right lower extremity ulceration improving
   Skin: Rash appears unchanged; some peeling of skin
   Labs / Radiology
   322 K/uL
   10.8 g/dL
   130 mg/dL
   0.6 mg/dL
   37 mEq/L
   4.1 mEq/L
   17 mg/dL
   102 mEq/L
   144 mEq/L
   33.2 %
   7.6 K/uL
        [image002.jpg]
                            [**2102-10-19**]  05:33 PM
                            [**2102-10-20**]  02:09 AM
                            [**2102-10-21**]  02:33 AM
                            [**2102-10-21**]  10:06 AM
                            [**2102-10-21**]  04:41 PM
                            [**2102-10-22**]  02:10 AM
                            [**2102-10-23**]  12:25 AM
                            [**2102-10-23**]  10:00 AM
                            [**2102-10-23**]  04:00 PM
                            [**2102-10-24**]  04:21 AM
   WBC
   7.7
   8.2
   8.2
   7.7
   8.0
   7.6
   Hct
   29.1
   30.9
   30.9
   32.5
   34.8
   33.2
   Plt
   322
   333
    333
   [**Telephone/Fax (3) 9366**]
   Cr
   0.5
   0.5
   0.7
   0.7
   0.6
   TCO2
   39
   45
   Glucose
   140
   140
   158
   146
   169
   146
   130
   Other labs: PT / PTT / INR:13.0/26.4/1.1, CK / CKMB /
   Troponin-T:62//<0.01, ALT / AST:40/23, Alk Phos / T Bili:103/0.3,
   Amylase / Lipase:74/21, Differential-Neuts:76.9 %, Band:0.0 %,
   Lymph:12.7 %, Mono:8.5 %, Eos:1.7 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.5 g/dL, LDH:172 IU/L, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:4.3
   mg/dL
   Assessment and Plan
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 ALTERATION IN ELIMINATION RELATED TO CONSTIPATION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 LYME DISEASE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Bells Palsy
   63M with HTN, ITP, admitted with neurologic changes and found to have
   lyme encephalitis.  Now transferred with continued altered mental
   status and fevers.
   # Lyme encephalitis.  Highly suspected based on MR findings, serum and
   CSF serologies.  Treated for 4 weeks with ceftriaxone.  With some
   persistent neurologic deficits.
   - Will not restart other ABx for now
   - Neurology following; unclear if deficits permanent
   -Rehab screening
   # Agitation/altered mental status. Primarily due to encephalitis,
   though could be multifactorial - electrolyte abnormalities, other
   concurrent infection, med related.  Also with some chronic narcotic
   use.  He responds well to PRN haldol, but we will try to avoid chemical
   sedation and restraints with frequent re-orientation. Will try to
   minimize all medications. PM Seroquel dose has been increased but 8am
   and 2pm doses have been decreased. Per nursing patient was again more
   agitated and confused overnight.
   - Pt has been on Methadone 10 mg TID for chronic pain control issues
   but will try to wean this off as not clear that pt is in pain and that
   he needs it. Currently tapering. Today day #2 of 3 days at 5 TID, then
   will go to 3 days at 2.5 TID
   - Currently on Seroquel 12.5 [**Hospital1 **] with hs dose 25mg; added PRN 25mg for
   agitation at night given that he was agitated last night
   - Needs EKG monitoring of QRS
   # Respiratory failure: CXR yesterday does appear improved, making PNA
   less likely. Sputum cultures have been negative.  He has been on
   extended time period of  trach collar and does well with it.
   - Continue inhaled meds as prior for bronchospasm (no clear history of
   COPD, though with significant smoking history).
   - Will get ABG today
   #Metabolic Alkalosis: Bicarb normalized. Urine chloride was normal,
   suggesting he is not volume depleted. Not related to hypokalemia as K+
   is normal. Unclear source.
   -Will discuss with renal attending tomorrow
   - Will not give more acetazolamide at this time, but continue to
   monitor.
   -ABG today to reassess
   # Hypotension (resolved): Has previously had periods of hypotension
   with SBPs to 80s.  Responded to IV fluids and started on vanc, cefepime
   and cipro for a presumed hospital acquired pneumonia (had had CXR that
   showed possible new RLL infiltrates).  Will try stopping some
   antihypertensives and see if this improves. D/c clonodine given that he
   is on metoprolol for control of HR after an accelerated idioventricular
   rhythm. Per nursing, patient did have some of his episodes of
   hypotension immediately after seroquel evening dose.
   - Currently tapering clonodine
   - Clonodine taper: 0.1mg daily x3 days (on day 2), then off
   - He had had a cards consult for tachycardia, which they felt was an
   accelerated idioventricular rhythm, given metoprolol for this.
   -Timing of meds: patient is getting many of his medications together,
   may be causing hypotensive periods. Touch base with nursing to ensure
   staggered timing of meds
   # Fever.  Daily low grade temps [**Date range (1) 9233**] (100-100.3), then was
   afebrile for a while, but now having some low grade temps more recently
   ([**10-24**]). Was only on Ceftriaxone, but several more ABx
s were added on
   due to transient hypotense episodes, and then they were pulled off with
   the idea that if he has a true infection, it would declare itself with
   elevated WBC
s and high fevers. His WBC count still remains low. All
   recent cultures negative. CXR bilateral base opacification, atelectasis
   vs PNA but this has been present for several previous CXR
s. No clear
   infectious source other than the IgM Lyme.
   - If febrile again, needs recultures of everything
   - Hold off on starting any ABx for now
   # Corneal ulcer.  s/p eyelid suturing with ophthal.  Likely related to
   inability to protect eye with neurologic deficits.
   - vigamox and bacitracin ointment.
   - f/u ophthalmology recs specifically duration of eye drops and f/u as
   outpatient
   # Elevated LFTs.  Normalized.  Unclear etiology, possibly due to
   ceftriaxone.
   - Continue to trend.  If he has fevers again, would further address
   -Recheck LFTs tomorrow
   #Hypernatremia: free water 250 cc q4 hours with tube feeding
   # Accelerated idioventricular rhythm.  Cards saw; thought benign and
   not related to lyme disease.
   - Continue metoprolol at current dosing.
   FEN: correct/replete electrolytes, tube feeds
   Prophylaxis: Subcutaneous heparin, H2B
   Access: Peripherals, PICC was pulled out a little bit 2 days ago, but
   is still usable, just not a central line
   Code:  Full Code
   Communication: Patient & Son, [**Name (NI) 152**] [**Name (NI) **] [**Telephone/Fax (1) 9234**]
   Disposition: rehab this week?
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2102-10-24**] 01:05 AM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2102-10-20**] 01:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-10-26 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Free water increased d/t hypernatremia
   - methadone level to 2.5 TID starting tomorrow.  3 more days and then
   wean to 0
   - pulled out his trach so had to stay in unit d/t behavior issues
   - large bloody BM at 2130: type and cross X2; PPI; 2 peripheral large
   bore IV's; repeat Hct at 2300. Per nursing patient had 3 bloody bowel
   movements, blood largely on the outside of BM, dark, has now had 2
   bowel movments without evidence of bleeding.
   -D5W started because still hypernat despite max tube feed boluses
   HCT: [**10-25**] 3am 34.4, [**10-25**] 10pm 31.5, [**10-26**] 3:30am 29.1
   Allergies:
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2102-10-23**] 07:26 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-10-26**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-10-26**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 80 (71 - 126) bpm
   BP: 113/68(77) {92/55(65) - 160/86(116)} mmHg
   RR: 12 (11 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.6 kg (admission): 83.1 kg
   Height: 70 Inch
             Total In:
                                                                  1,876 mL
                                                                  1,975 mL
   PO:
             TF:
                                                                  1,528 mL
                                                                    513 mL
   IVF:
                                                                     98 mL
                                                                    963 mL
   Blood products:
   Total out:
                                                                    805 mL
                                                                      0 mL
   Urine:
                                                                    805 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,071 mL
                                                                  1,975 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 96%
   ABG: ///37/
   Physical Examination
   Gen: patient appears more agitated this morning, kicking the bed
   frequently, responds yes to all pain questions
   HEENT: right eye taped shut
   CV: RRR, no M/R/G
   Lungs: CTA b/l
   [**Last Name (un) **]: NABS, soft, ND, tender
   Extrem: no edema
   Labs / Radiology
   262 K/uL
   9.9 g/dL
   127 mg/dL
   0.6 mg/dL
   37 mEq/L
   4.3 mEq/L
   15 mg/dL
   105 mEq/L
   145 mEq/L
   29.1 %
   9.0 K/uL
        [image002.jpg]
                            [**2102-10-21**]  04:41 PM
                            [**2102-10-22**]  02:10 AM
                            [**2102-10-23**]  12:25 AM
                            [**2102-10-23**]  10:00 AM
                            [**2102-10-23**]  04:00 PM
                            [**2102-10-24**]  04:21 AM
                            [**2102-10-24**]  02:34 PM
                            [**2102-10-25**]  03:04 AM
                            [**2102-10-25**]  10:43 PM
                            [**2102-10-26**]  03:38 AM
   WBC
   8.2
   7.7
   8.0
   7.6
   8.6
   9.0
   Hct
   30.9
   32.5
   34.8
   33.2
   34.4
   31.5
   29.1
   Plt
    333
   317
   315
   322
   338
   262
   Cr
   0.7
   0.7
   0.6
   0.6
   0.6
   TCO2
   39
   Glucose
   158
   146
   169
   146
   130
   133
   127
   Other labs: PT / PTT / INR:13.0/26.4/1.1, CK / CKMB /
   Troponin-T:62//<0.01, ALT / AST:28/26, Alk Phos / T Bili:107/0.3,
   Amylase / Lipase:74/21, Differential-Neuts:56.0 %, Band:0.0 %,
   Lymph:31.0 %, Mono:11.0 %, Eos:2.0 %, Lactic Acid:0.7 mmol/L,
   Albumin:3.0 g/dL, LDH:273 IU/L, Ca++:8.6 mg/dL, Mg++:2.4 mg/dL, PO4:4.8
   mg/dL
   Assessment and Plan
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 ALTERATION IN ELIMINATION RELATED TO CONSTIPATION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 LYME DISEASE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Bells Palsy
   63M with HTN, ITP, admitted with neurologic changes and found to have
   lyme encephalitis s/p 4 week treatment course with ceftriaxone.  Now
   transferred with continued altered mental status and fevers.
   #[**Last Name (un) **] pain: patient in pain this morning when examined on prerounds;
   received 2mg IV morphine and was seen by surgery, at that point no
   longer in pain. Per his report pain was in the RUQ. Possible etiologies
   of pain in RUQ that resolves include biliary colic, ulcer disease;
   could also be MI. Lactate normal making ischemia less of a concern.
   Patient may have acalculous cholecystitis in the setting of ceftriaxone
   use for 28 days.
   -LFTs, lipase
   -RUQ ultrasound
   -EKG
   -Serial troponins x 3
   -IV PPI
   #Bloody bowel movement: Patient does appear to have some abdominal pain
   this morning in the setting of his bloody bowel movements, unclear as
   he is a poor historian. Pt having NABS. Has had 5 point drop in HCT.
   Per report, blood seems more like hemorrhoidal bleeding, but this
   should not give pain. Patient may also have bleeding related to ulcer.
   -PEG tube lavage to assess for UGI bleed.
   -Pt has active T&S, 2 peripheral large bore IVs
   -q6 HCT
   -GI consult  for possible EGD and [**Last Name (un) **]
   # Agitation/altered mental status. Primarily due to Lyme encephalitis,
   though could be multifactorial - electrolyte abnormalities, other
   concurrent infection, med related.  Also with some chronic narcotic
   use. Will try to minimize all medications. Seroquel dose currently 12.5
   [**Hospital1 **] (morning, afternoon), qhs 25mg; also 25 mg PRN agitation at night.
   - Pt has been on Methadone 10 mg TID for chronic pain control issues,
   currently tapering due to sedation.  Today day #1 of 3 days at 2.5 TID
   (after this done with methadone)
   - Currently on Seroquel 12.5 [**Hospital1 **] with hs dose 25mg; PRN 25mg for
   agitation at night
   # Respiratory failure: Patient has been on trach collar since Sunday,
   tolerating well. CXR improved, making PNA less likely. Sputum cultures
   have been negative.  Respiratory acidosis and metabolic alkalosis.
   Patient most likely chronic COPD.
   - Continue inhaled meds as prior for bronchospasm (no clear history of
   COPD, though with significant smoking history).
   #Metabolic Alkalosis: Bicarb normalized. Urine chloride was normal,
   suggesting he is not volume depleted. Not related to hypokalemia as K+
   is normal. Unclear source.
   #Hypernatremia free water 300 cc q4 hours with tube feeding; pt
   receiving 2 L D5W currently. Recheck Na+ in evening
   -patient
s sodium should be maintained at exactly 140 if possible as
   this is where his mental status is best
   # Hypotension (resolved): Has previously had periods of hypotension
   with SBPs to 80s.  Responded to IV fluids and started on vanc, cefepime
   and cipro for a presumed hospital acquired pneumonia (had had CXR that
   showed possible new RLL infiltrates).  . D/c clonodine given that he is
   on metoprolol for control of HR after an accelerated idioventricular
   rhythm. Per nursing, appeared to be related to getting most of his
   medications together; medications were retimed and this along with
   taper of clonodine has resolved hypotension.
   - He had had a cards consult for tachycardia, which they felt was an
   accelerated idioventricular rhythm, given metoprolol for this.
   # Fever.  Daily low grade temps [**Date range (1) 9233**] (100-100.3). Was only on
   Ceftriaxone, but several more ABx
s were added on due to transient
   hypotense episodes, and then they were pulled off with the idea that if
   he has a true infection, it would declare itself with elevated WBC
   and high fevers. His WBC count still remains low. All recent cultures
   negative. CXR bilateral base opacification, atelectasis vs PNA but this
   has been present for several previous CXR
s. No clear infectious source
   other than the IgM Lyme.
   - If febrile again, recultures of everything
   - Hold off on starting any ABx for now
   # Corneal ulcer.  s/p eyelid suturing with ophtho.  Likely related to
   inability to protect eye with neurologic deficits.
   -Per ophthomology patient should continue other eye drops until
   outpatient f/u, patient can follow up with ophthomologist at his rehab
   facility
   # Accelerated idioventricular rhythm.  Cards saw; thought benign and
   not related to lyme disease.
   - Continue metoprolol at current dosing.
   FEN: correct/replete electrolytes, tube feeds
   Prophylaxis: Subcutaneous heparin
   Access: Peripherals, PICC was pulled out a little bit 4 days ago, but
   is still usable, just not a central line
   Code:  Full Code
   Communication: Patient & Son, [**Name (NI) 152**] [**Name (NI) **] [**Telephone/Fax (1) 9234**]
   Disposition: call out to floor, rehab when bed available
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2102-10-26**] 03:45 AM 75 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2102-10-20**] 01:24 PM
   18 Gauge - [**2102-10-25**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-10-27 06:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2102-10-26**] 03:45 PM
   - Had some RUQ transient abdominal pain that was resolved by time of
   rounds. Made NPO/stopped TF's. Lactate 1.3
   - LFT's added on: all normal
   - 1130am labs Hct 29.1 --> 30.2, CE's negative --> 6pm labs with Na
   134, Hct 32.4
   - KUB showing lots of stool. Significant fecal loading in ascending,
   transverse and descending colon, no evidence of small or large bowel
   obstruction
   - RUQ u/s showing....***** NEED TO CALL RADS EARLY MORNING FOR READ
   - Surgery resident had done DRE this am, no gross blood but slightly
   guaic positive, a lot of stool in vault but no obvious hemorrhoids,
   fissures, defects, etc.
   - Did Gtube lavage x2 without any blood, only returned clear water
   - EKG was unchanged from previous
   - GI consult: conservative management, PPI, no EGD or colonoscopy,
   check Vitamin B12 level (ordered for tomorrow's am labs), ideally would
   have done a flex sig but bleeding has stopped on its own
   Allergies:
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2102-10-26**] 02:51 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-10-27**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98.1
   HR: 98 (73 - 113) bpm
   BP: 140/73(90) {94/62(74) - 166/117(122)} mmHg
   RR: 21 (8 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.6 kg (admission): 83.1 kg
   Height: 70 Inch
             Total In:
                                                                  3,128 mL
                                                                     67 mL
   PO:
             TF:
                                                                    606 mL
   IVF:
                                                                  2,022 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,128 mL
                                                                     67 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask
   SpO2: 97%
   ABG: ///33/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   343 K/uL
   11.2 g/dL
   99 mg/dL
   0.5 mg/dL
   33 mEq/L
   4.6 mEq/L
   11 mg/dL
   101 mEq/L
   139 mEq/L
   32.3 %
   10.9 K/uL
        [image002.jpg]
                            [**2102-10-23**]  10:00 AM
                            [**2102-10-23**]  04:00 PM
                            [**2102-10-24**]  04:21 AM
                            [**2102-10-24**]  02:34 PM
                            [**2102-10-25**]  03:04 AM
                            [**2102-10-25**]  10:43 PM
                            [**2102-10-26**]  03:38 AM
                            [**2102-10-26**]  11:34 AM
                            [**2102-10-26**]  06:27 PM
                            [**2102-10-27**]  12:51 AM
   WBC
   7.6
   8.6
   9.0
   10.9
   Hct
   33.2
   34.4
   31.5
   29.1
   30.2
   32.4
   32.3
   Plt
   322
   338
   262
   343
   Cr
   0.6
   0.6
   0.6
   0.5
   TropT
   <0.01
   TCO2
   39
   Glucose
   169
   146
   130
   133
   127
   99
   Other labs: PT / PTT / INR:12.5/25.6/1.1, CK / CKMB /
   Troponin-T:26//<0.01, ALT / AST:21/18, Alk Phos / T Bili:86/0.2,
   Amylase / Lipase:74/27, Differential-Neuts:56.0 %, Band:0.0 %,
   Lymph:31.0 %, Mono:11.0 %, Eos:2.0 %, Lactic Acid:1.3 mmol/L,
   Albumin:3.0 g/dL, LDH:273 IU/L, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:4.3
   mg/dL
   Imaging: KUB: Significant fecal loading in ascending, transverse and
   descending colon, no evidence of small or large bowel obstruction
   Assessment and Plan
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 ALTERATION IN ELIMINATION RELATED TO CONSTIPATION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 LYME DISEASE
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Bells Palsy
   63M with HTN, ITP, admitted with neurologic changes and found to have
   lyme encephalitis s/p 4 week treatment course with ceftriaxone.  Now
   transferred with continued altered mental status and fevers.
   #[**Last Name (un) **] pain: patient in pain this morning when examined on prerounds;
   received 2mg IV morphine and was seen by surgery, at that point no
   longer in pain. Per his report pain was in the RUQ. Possible etiologies
   of pain in RUQ that resolves include biliary colic, ulcer disease;
   could also be MI. Lactate normal making ischemia less of a concern.
   Patient may have acalculous cholecystitis in the setting of ceftriaxone
   use for 28 days.
   -LFTs, lipase
   -RUQ ultrasound
   -EKG
   -Serial troponins x 3
   -IV PPI
   #Bloody bowel movement: Patient does appear to have some abdominal pain
   this morning in the setting of his bloody bowel movements, unclear as
   he is a poor historian. Pt having NABS. Has had 5 point drop in HCT.
   Per report, blood seems more like hemorrhoidal bleeding, but this
   should not give pain. Patient may also have bleeding related to ulcer.
   -PEG tube lavage to assess for UGI bleed.
   -Pt has active T&S, 2 peripheral large bore IVs
   -q6 HCT
   -GI consult  for possible EGD and [**Last Name (un) **]
   # Agitation/altered mental status. Primarily due to Lyme encephalitis,
   though could be multifactorial - electrolyte abnormalities, other
   concurrent infection, med related.  Also with some chronic narcotic
   use. Will try to minimize all medications. Seroquel dose currently 12.5
   [**Hospital1 **] (morning, afternoon), qhs 25mg; also 25 mg PRN agitation at night.
   - Pt has been on Methadone 10 mg TID for chronic pain control issues,
   currently tapering due to sedation.  Today day #1 of 3 days at 2.5 TID
   (after this done with methadone)
   - Currently on Seroquel 12.5 [**Hospital1 **] with hs dose 25mg; PRN 25mg for
   agitation at night
   # Respiratory failure: Patient has been on trach collar since Sunday,
   tolerating well. CXR improved, making PNA less likely. Sputum cultures
   have been negative.  Respiratory acidosis and metabolic alkalosis.
   Patient most likely chronic COPD.
   - Continue inhaled meds as prior for bronchospasm (no clear history of
   COPD, though with significant smoking history).
   #Metabolic Alkalosis: Bicarb normalized. Urine chloride was normal,
   suggesting he is not volume depleted. Not related to hypokalemia as K+
   is normal. Unclear source.
   #Hypernatremia free water 300 cc q4 hours with tube feeding; pt
   receiving 2 L D5W currently. Recheck Na+ in evening
   -patient
s sodium should be maintained at exactly 140 if possible as
   this is where his mental status is best
   # Hypotension (resolved): Has previously had periods of hypotension
   with SBPs to 80s.  Responded to IV fluids and started on vanc, cefepime
   and cipro for a presumed hospital acquired pneumonia (had had CXR that
   showed possible new RLL infiltrates).  . D/c clonodine given that he is
   on metoprolol for control of HR after an accelerated idioventricular
   rhythm. Per nursing, appeared to be related to getting most of his
   medications together; medications were retimed and this along with
   taper of clonodine has resolved hypotension.
   - He had had a cards consult for tachycardia, which they felt was an
   accelerated idioventricular rhythm, given metoprolol for this.
   # Fever.  Daily low grade temps [**Date range (1) 9233**] (100-100.3). Was only on
   Ceftriaxone, but several more ABx
s were added on due to transient
   hypotense episodes, and then they were pulled off with the idea that if
   he has a true infection, it would declare itself with elevated WBC
   and high fevers. His WBC count still remains low. All recent cultures
   negative. CXR bilateral base opacification, atelectasis vs PNA but this
   has been present for several previous CXR
s. No clear infectious source
   other than the IgM Lyme.
   - If febrile again, recultures of everything
   - Hold off on starting any ABx for now
   # Corneal ulcer.  s/p eyelid suturing with ophtho.  Likely related to
   inability to protect eye with neurologic deficits.
   -Per ophthomology patient should continue other eye drops until
   outpatient f/u, patient can follow up with ophthomologist at his rehab
   facility
   # Accelerated idioventricular rhythm.  Cards saw; thought benign and
   not related to lyme disease.
   - Continue metoprolol at current dosing.
   FEN: correct/replete electrolytes, tube feeds
   Prophylaxis: Subcutaneous heparin
   Access: Peripherals, PICC was pulled out a little bit 4 days ago, but
   is still usable, just not a central line
   Code:  Full Code
   Communication: Patient & Son, [**Name (NI) 152**] [**Name (NI) **] [**Telephone/Fax (1) 9234**]
   Disposition: call out to floor, rehab when bed available
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2102-10-20**] 01:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-10-27 11:51:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Lyme encephalitis
   HPI:
   24 Hour Events:
   Abdominal pain did not recur
   Imaging was reassuring
   Seen by surgery and GI
   Tube feeds restarted
   Allergies:
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2102-10-26**] 02:51 PM
   Other medications:
   colace, SQH, bacitracin, CHG, quvar, lopressor, seroquel, tears, PPI,
   albuterol,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-10-27**] 11:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.3
C (97.3
   HR: 92 (73 - 113) bpm
   BP: 122/60(74) {94/56(63) - 166/117(122)} mmHg
   RR: 16 (8 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.6 kg (admission): 83.1 kg
   Height: 70 Inch
             Total In:
                                                                  3,128 mL
                                                                    223 mL
   PO:
             TF:
                                                                    606 mL
                                                                     77 mL
   IVF:
                                                                  2,022 mL
                                                                    116 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,128 mL
                                                                    223 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask
   SpO2: 98%
   ABG: ///33/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, facial droop, eye finding
   stable
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : except at right base --
   decreased)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, toe ulcer stable
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal, somewhat paranoid thought
   process
   Labs / Radiology
   11.2 g/dL
   343 K/uL
   99 mg/dL
   0.5 mg/dL
   33 mEq/L
   4.6 mEq/L
   11 mg/dL
   101 mEq/L
   139 mEq/L
   32.3 %
   10.9 K/uL
        [image002.jpg]
                            [**2102-10-23**]  10:00 AM
                            [**2102-10-23**]  04:00 PM
                            [**2102-10-24**]  04:21 AM
                            [**2102-10-24**]  02:34 PM
                            [**2102-10-25**]  03:04 AM
                            [**2102-10-25**]  10:43 PM
                            [**2102-10-26**]  03:38 AM
                            [**2102-10-26**]  11:34 AM
                            [**2102-10-26**]  06:27 PM
                            [**2102-10-27**]  12:51 AM
   WBC
   7.6
   8.6
   9.0
   10.9
   Hct
   33.2
   34.4
   31.5
   29.1
   30.2
   32.4
   32.3
   Plt
   322
   338
   262
   343
   Cr
   0.6
   0.6
   0.6
   0.5
   TropT
   <0.01
   TCO2
   39
   Glucose
   169
   146
   130
   133
   127
   99
   Other labs: PT / PTT / INR:12.5/25.6/1.1, CK / CKMB /
   Troponin-T:26//<0.01, ALT / AST:21/18, Alk Phos / T Bili:86/0.2,
   Amylase / Lipase:74/27, Differential-Neuts:56.0 %, Band:0.0 %,
   Lymph:31.0 %, Mono:11.0 %, Eos:2.0 %, Lactic Acid:1.3 mmol/L,
   Albumin:3.0 g/dL, LDH:273 IU/L, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:4.3
   mg/dL
   Assessment and Plan
   Assessment and Plan
   63 y/o man with
          Acute abdominal pain
 resolved, reassuring imaging and
   serial exams.  ?constipation
          Ongoing encephalopathy and delirium
   o         Differential includes Lyme encephalitis, medication effects,
   general illness, and a combination of above.
   o         Continues to improve
   o         Today, feels somewhat paranoid but easily redirectiible.
   o         We will plan
   1.       Complete methadone taper
   2.       Complete clonidine taper
   3.       Continue seroquel
   4.       Replete free water for hypernatremia (seems quite sensitive)
          Respiratory failure
   o         Resolved -- Doing well on TC now for several days
   o         When on PMV, use nasal cannula
   o         Continue bronchodilators
   o         Continue suctioning
          Fever
   o         Resolved
   o         Off ABX
          AIVR
   o         Currently controlled; seen by cards
   o         Continue metoprolol
          Lyme encephalitis
   o         Now off ceftriaxone
   o         Per neurology, no need for repeat LP
          Metabolic alkalosis
   o         No response to saline challenge.  Etiology unclear, but no
   present need to attempt to correct.
          Corneal ulcer
   o         On rx per ophtho.
   o         Follow-up as per ophtho note
   Discontinue PPI.  Discontinue PICC line and change to PIV.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2102-10-27**] 07:44 AM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2102-10-20**] 01:24 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: d/c PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: